US04379154
A solution of 3-chloromethylpyridine hydrochloride (164 g) in ethanol (510 cc), at 50° C., is added dropwise and in the course of 20 minutes to a solution of thiourea (91 g) in boiling ethanol (510 cc). The reaction mixture is stirred for 3 hours 50 minutes at the boil and then cooled to 26° C. The resulting crystals are filtered off, washed twice with ethanol (400 cc in total) and dried under reduced pressure (25 mm Hg; 2.7 kPa) at a temperature of about 20° C. 2-(Pyrid-3-ylmethyl)-isothiourea dihydrochloride (173 g), melting at 212° C., is thus obtained.

reactant | 3-chloromethylpyridine hydrochloride | 164 g | Cl.ClCC=1C=NC=CC1
reactant | thiourea | 91 g | NC(=S)N | CH4N2S
solvent | ethanol | 510 cc | C(C)O | C2H6O
solvent | ethanol | 510 cc | C(C)O | C2H6O
product | 2-(Pyrid-3-ylmethyl)-isothiourea dihydrochloride | 173 g | Cl.Cl.N1=CC(=CC=C1)CSC(N)=N | InChI=1S/C7H9N3S.2ClH/c8-7(9)11-5-6-2-1-3-10-4-6;;/h1-4H,5H2,(H3,8,9);2*1H
